US07291635B2
The title C compound, (S)-2-((S)-2-acetylamino-3-phenyl-propionylamino)-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid (83.4 mg, 0.137 mmol) is dissolved in DMF (2 mL) and a solution of [4-(2-amino-ethyl)phenyl]-acetic acid t-butyl ester (32.2 mg, 0.137 mmol) in CH2Cl2 (0.5 mL) is added followed by a solution of HOBt (21.9 mg, 0.143 mmol) in DMF:CH2Cl2 (50:50, 0.5 mL), and finally EDCl (27.6 mg, 0.143 mmol) and TEA (0.020 mL, 0.143 mmol) as a slurry in CH2Cl2 (0.5 mL). The reaction is mixed well to give a homogeneous solution. After 3 h, EtOAc (100 mL) is added and the reaction is washed three times with 2N aqueous HCl (50 mL) and saturated aqueous NaHCO3 (50 mL). EtOAc layer is dried over anhydrous Na2SO4 and concentrated to yield {4-[2-((S)-2-((S)-2-acetylamino-3-phenyl-propionylamino)-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionylamino)-ethyl]-phenyl}-acetic acid t-butyl ester as an oil.

reactant | (S)-2-((S)-2-acetylamino-3-phenyl-propionylamino)-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionic acid | 0.137 mmol, 83.4 mg | C(C)(=O)N[C@H](C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)CC1=CC=CC=C1 | C30H32N4O8S
reactant | [4-(2-amino-ethyl)phenyl]-acetic acid t-butyl ester | 0.137 mmol, 32.2 mg | C(C)(C)(C)OC(CC1=CC=C(C=C1)CCN)=O | C14H21NO2
reactant | HOBt | 0.143 mmol, 21.9 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.143 mmol, 27.6 mg | CCN=C=NCCCN(C)C.Cl
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | DMF CH2Cl2 | 0.5 mL | CN(C)C=O.C(Cl)Cl
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | {4-[2-((S)-2-((S)-2-acetylamino-3-phenyl-propionylamino)-3-{4-[5-(4-methoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl]-phenyl}-propionylamino)-ethyl]-phenyl}-acetic acid t-butyl ester | C(C)(C)(C)OC(CC1=CC=C(C=C1)CCNC([C@H](CC1=CC=C(C=C1)N1S(N(C(C1)=O)CC1=CC=C(C=C1)OC)(=O)=O)NC([C@H](CC1=CC=CC=C1)NC(C)=O)=O)=O)=O | C44H51N5O9S
